** sch_path: /home/joyen/ee5311/EE5311/assignments/assignment6/assign1.sch
**.subckt assign1
V1 VDD gnd 1.8
V2 D gnd 1.8
V3 phi_bar gnd pulse 1.8 0 10n 5p 5p 9.99n 20n
V5 phi gnd pulse 0 1.8 10n 5p 5p 9.99n 20n
x1 phi_bar VDD net3 net2 gnd phi transmission_gate
x2 VDD net4 net3 gnd inv
x3 VDD D net1 gnd inv
x4 phi VDD net1 net2 gnd phi_bar transmission_gate
x5 VDD net2 net4 gnd inv
x6 VDD net5 net6 gnd inv
x7 VDD net4 net7 gnd inv
x8 VDD net8 net5 gnd inv
x9 phi VDD net6 net8 gnd phi_bar transmission_gate
x10 phi_bar VDD net7 net8 gnd phi transmission_gate
x11 VDD net8 Q gnd inv
x12 VDD Q net9 gnd inv
**** begin user architecture code
.lib /cad/share/pdk/sky130B/libs.tech/combined/sky130.lib.spice tt


.control
* Force initial state so Q starts LOW
.ic v(Q)=0 v(net8)=1.8

let t_start = 9.3n
let t_step = 10p
let t_stop = 9.9n
let current_t = t_start
let min_tdq = 1
let opt_setup = 0
let opt_tcq = 0

let n_pts = floor((t_stop - t_start) / t_step)
let tdc_sweep = unitvec(n_pts)
let tcq_sweep = tdc_sweep * 0
let tdq_sweep = tdc_sweep * 0
let idx = 0

while current_t <= t_stop
    alter @V2[pulse] = [ 0 1.8 $&current_t 5p 5p 10n 20n ]
    tran 5p 15n uic

    meas tran tdc TRIG v(D) VAL=0.9 RISE=1 TD=8n TARG v(phi) VAL=0.9 RISE=1 TD=9n
    meas tran tcq TRIG v(phi) VAL=0.9 RISE=1 TD=9n TARG v(Q) VAL=0.9 RISE=1 TD=9.5n
    meas tran tdq TRIG v(D) VAL=0.9 RISE=1 TD=8n TARG v(Q) VAL=0.9 RISE=1 TD=9.5n

    let tdc_sweep[idx] = tdc
    if tcq > 0
        let tcq_sweep[idx] = tcq
    end
    if tdq > 0
        let tdq_sweep[idx] = tdq
    end

    * Capture the minimum tDQ and corresponding setup/tcq
    if tdq > 0
        if tdq < min_tdq
            let min_tdq = tdq
            let opt_setup = tdc
            let opt_tcq = tcq
        end
    end

    let idx = idx + 1
    let current_t = current_t + t_step
end

print opt_setup opt_tcq min_tdq

* Setup-time sweep: tDQ and tCQ vs tsetup (native ngspice plot)
plot tdq_sweep tcq_sweep vs tdc_sweep
setplot tran18
plot v(D) v(phi) v(Q) xlimit 9.5n 10.5n
print tcq_sweep tdq_sweep tdc_sweep
.endc


**** end user architecture code
**.ends

* expanding   symbol:  transmission_gate.sym # of pins=6
** sym_path: /home/joyen/ee5311/EE5311/assignments/assignment6/transmission_gate.sym
** sch_path: /home/joyen/ee5311/EE5311/assignments/assignment6/transmission_gate.sch
.subckt transmission_gate phi VDD in out GND phi_bar
*.ipin in
*.opin out
*.ipin phi
*.ipin phi_bar
*.iopin GND
*.iopin VDD
XM3 in phi_bar out GND sky130_fd_pr__nfet_01v8 L=0.15 W=0.42 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1
XM4 in phi out VDD sky130_fd_pr__pfet_01v8 L=0.15 W=0.42 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1
.ends


* expanding   symbol:  inv.sym # of pins=4
** sym_path: /home/joyen/ee5311/EE5311/assignments/assignment6/inv.sym
** sch_path: /home/joyen/ee5311/EE5311/assignments/assignment6/inv.sch
.subckt inv VDD in out GND
*.ipin in
*.iopin GND
*.iopin VDD
*.opin out
XM3 out in GND GND sky130_fd_pr__nfet_01v8 L=0.15 W=0.42 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1
XM4 out in VDD VDD sky130_fd_pr__pfet_01v8 L=0.15 W=0.84 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1
.ends

.GLOBAL VDD
.GLOBAL gnd
.end
